US04206225
2,5-Dimethoxy-β-methylstyrene oxide
To a -78° C. solution of diphenylsulfonium ethylide (1.0 mole) in tetrahydrofuran (one liter) is slowly added 2,5-dimethoxybenzaldehyde (1.0 mole). The reaction mixture is stirred at -78° C. for 3 hours and then allowed to warm to room temperature. It is then added to ether-water and the ether phase separated. The ether phase is washed with water, dried (MgSO4) and evaporated. Fractional distillation of the residue gives the title product.

reactant | diphenylsulfonium | C1(=CC=CC=C1)[SH+]C1=CC=CC=C1
reactant | 2,5-dimethoxybenzaldehyde | 1.0 mole | COC1=C(C=O)C=C(C=C1)OC | C9H10O3
solvent | tetrahydrofuran | one liter | O1CCCC1 | C4H8O
product | 2,5-Dimethoxy-β-methylstyrene oxide | COC1=C(C2C(C)O2)C=C(C=C1)OC | C11H14O3
